US05442062
Acetamidoxime (640 mg, 8.64 mmol) was dissolved in tetrahydrofuran (10 ml), 60% sodium hydride (345 mg, 8.63 mmol) was added thereto, 10 particles of molecular sieve and ethyl sorbate (1.1 g, 7.85 mmol) were added thereto, and the mixture was stirred under heating at reflux for 8 hours. The reaction mixture was diluted with ethyl acetate, and an aqueous saturated solution of ammonium chloride was added thereto to stop the reaction. The ethyl acetate layer was separated, washed with an aqueous saturated solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography (hexane-ethyl acetate 50:1-10:1-5:1) to obtain methyloxadiazolyl-1,3-pentadiene (546 mg, 46.3%) as white solid. This compound has the following NMR spectrum.

reactant | Acetamidoxime | 8.64 mmol, 640 mg | C(C)(N)=NO | C2H6N2O
reactant | sodium hydride | 8.63 mmol, 345 mg | [H-].[Na+]
reactant | ethyl sorbate | 7.85 mmol, 1.1 g | C(\C=C\C=C\C)(=O)OCC | C8H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyloxadiazolyl-1,3-pentadiene | 546 mg, 46.3% | CC(=CC=CC)C=1N=NOC1 | C8H10N2O
